US04126444
5-Methyl-2-phenyl-4-imidazolecarboxaldehyde
5-Methyl-2-phenyl-4-imidazolemethanol (102.1 g) is dissolved in concentrated nitric acid (765 ml). The solution is cooled in an ice bath and allowed to stand for 16 hours. The solution is heated on a steam bath for 30 minutes, diluted with water (2.3 liters) and neutralized with 50% sodium hydroxide while cooling in an ice bath. The solid is collected, dried, recrystallized from ethanol (200 ml) and then from 1:2 ethanol:water (1000 ml) giving the title product, m.p. 102°-115° C.

reactant | 5-Methyl-2-phenyl-4-imidazolemethanol | 102.1 g | CC1=C(N=C(N1)C1=CC=CC=C1)CO | C11H12N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | nitric acid | 765 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | 2.3 liters | O | H2O
product | 5-Methyl-2-phenyl-4-imidazolecarboxaldehyde | CC1=C(N=C(N1)C1=CC=CC=C1)C=O | C11H10N2O
